US05223529
3-Nitroaniline (2.8 g) is added to a solution of N-(diphenylcarbamoylmethyl)-1-imidazolecarboxamide (3.2 g) in anhydrous toluene (35 cc). The solution obtained is stirred under reflux for 4 hours. After cooling, the reaction mixture is washed with an N aqueous solution (40 cc) of methanesulphonic acid and distilled water (2×30 cc). The organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue is stirred for 20 minutes in dichloromethane (25 cc). The insoluble product is separated by filtration, washed with dichloromethane (5 cc) and dried in the air. After recrystallization in ethyl acetate, 2-[3-(3-nitrophenyl)ureido]-N,N-diphenylacetamide (0.7 g), m.p. 180° C., is obtained.

reactant | 3-Nitroaniline | 2.8 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | N-(diphenylcarbamoylmethyl)-1-imidazolecarboxamide | 3.2 g | C1(=CC=CC=C1)N(C(=O)CNC(=O)N1C=NC=C1)C1=CC=CC=C1 | C18H16N4O2
solvent | toluene | 35 cc | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(3-nitrophenyl)ureido]-N,N-diphenylacetamide | 0.7 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H18N4O4
